* /home/sumanto/desktop/hackathon/xor-xnor-gate/esim_project_files/xor_xnor/xor_xnor.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib

m2 a b xnor_analog gnd CMOSN  L=100u W=100u M=1
m6 xnor_analog a b gnd CMOSN  L=100u W=100u M=1
v1  a gnd pulse(0 3.3 0.1u 0.1u 0.1u 1m 2m)
m4 xor_analog xnor_analog gnd gnd CMOSN  L=100u W=100u M=1
m3 xnor_analog xor_analog vdd vdd CMOSP  L=100u W=100u M=1
v3 vdd gnd  dc 3.3
v2  b gnd pulse(0 3.3 0.1u 0.1u 0.1u 2m 4m)
m5 xor_analog a b vdd CMOSP  L=100u W=100u M=1
m1 xor_analog b a vdd CMOSP  L=100u W=100u M=1
* u3  net-_u1-pad3_ net-_u1-pad4_ xor_digital xnor_digital dac_bridge_2
* u4  xor_digital plot_v1
* u5  xnor_digital plot_v1
* u2  a b net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ ixorxnor
* u6  xor_analog plot_v1
* u7  xnor_analog plot_v1
a1 [net-_u1-pad3_ net-_u1-pad4_ ] [xor_digital xnor_digital ] u3
a2 [a b ] [net-_u1-pad1_ net-_u1-pad2_ ] u2
a3 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] u1
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             ixorxnor, NgSpice Name: ixorxnor
.model u1 ixorxnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.1e-03 20e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(xor_digital)
plot v(xnor_digital)
plot v(xor_analog)
plot v(xnor_analog)
.endc
.end
