* /home/sumanto/videos/xor_xnor/xor_xnor.cir
.lib "../sky130_fd_pr/models/sky130.lib.spice" tt
* /home/sumanto/videos/xor_xnor/xor_xnor.cir

xm2  a b xnor gnd sky130_fd_pr__nfet_01v8
xm6  xnor a b gnd sky130_fd_pr__nfet_01v8
v1  a gnd pulse(0 3.3 0.1n 0.1n 0.1n 2u 4u)
xm4  xor xnor gnd gnd sky130_fd_pr__nfet_01v8
xm3  xnor xor vdd vdd sky130_fd_pr__pfet_01v8
v3 vdd gnd  dc 3.3
v2  b gnd pulse(0 3.3 1u 0.1n 0.1n 4u 8u)
xm5  xor a b vdd sky130_fd_pr__pfet_01v8
xm1  xor b a vdd sky130_fd_pr__pfet_01v8
.tran 0.1e-06 20e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a) v(b)+6 v(xor)+12 v(xnor)+18
.endc
.end

